US07622487B2
1-Acetyl-4-piperidinone (77 g) was dissolved in dichloromethane (300 ml), and trimethylsilyltrifluoromethanesulfonate (200 ml) and benzhydrol (92 g) were added thereto with stirring under ice-cooling. The mixture was allowed to stand at room temperature overnight, and then water (500 ml) and sodium acetate (50 g) were added thereto and the reaction mixture was vigorously stirred. The dichloromethane layer was preparatively separated, washed with an aqueous sodium bicarbonate solution, dried, and then the solvent was evaporated under reduced pressure. The residue was treated with ethyl ether to obtain 1-acetyl-3-benzhydryl-4-piperidinone as colorless crystals (132.6 g, 86%).

reactant | 1-Acetyl-4-piperidinone | 77 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | trimethylsilyltrifluoromethanesulfonate | 200 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | benzhydrol | 92 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | sodium acetate | 50 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 1-acetyl-3-benzhydryl-4-piperidinone | 132.6 g, 86% | C(C)(=O)N1CC(C(CC1)=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H21NO2
